US04405530
H. 2-Fluoromethyl-2,6-diphthalimido-hexanenitrile
A mixture of 2-fluoromethyl-2-phthalimido-6-iodo-hexanenitrile (9.0 g, 22.5 mmol), dry DMF (30 ml), and potassium phthalimide (4.2 g, 1 equivalent) is stirred and heated at 80° C. for 4 hours. The DMF is removed under reduced pressure (0.1 mm Hg), and the residue is taken up in chloroform. The chloroform mixture is filtered, and the filtrate is washed with 2 N NaOH, 2 N HCl, and water. Evaporation of solvent gives a residue which, when dissolved in the minimum amount of acetone, crystallizes upon addition of ether. After standing at 5° C. overnight, the colourless crystals are collected (7.0 g), mp (Kofler) 136° C.

reactant | 2-fluoromethyl-2-phthalimido-6-iodo-hexanenitrile | 22.5 mmol, 9.0 g | FCC(C#N)(CCCCI)N1C(C=2C(C1=O)=CC=CC2)=O | C15H14FIN2O2
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | potassium phthalimide | 4.2 g, 1 equivalent | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | acetone | CC(=O)C | C3H6O
product | 2-Fluoromethyl-2,6-diphthalimido-hexanenitrile | FCC(C#N)(CCCCN1C(C=2C(C1=O)=CC=CC2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C23H18FN3O4
